US07053089B2
4-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester
To a mixture of 4-aminomethylpiperidine (15 g) in 250 mL of anhydrous tetrahydrofuran cooled to −78° C. was added, dropwise over 45 min., a solution of di-tert-butyl di-carbonate (24 g) in 100 mL of anhydrous tetrahydrofuran. After stirring for 1 h at −78° C., the mixture was allowed to warm to room temperature and stirred overnight. The mixture was concentrated to near dryness and diluted with 200 mL of 10% aqueous citric acid. The mixture was extracted with 3×100 mL of ether, then made basic with sodium hydroxide pellets and extracted with 3×200 mL of chloroform. The combined chloroform extracts were dried over magnesium sulfate and concentrated to dryness under reduced pressure. The resulting oil was homogeneous by TLC (development with 90:10 chloroform saturated with ammonia:methanol).

reactant | 4-aminomethylpiperidine | 15 g | NCC1CCNCC1 | C6H14N2
reactant | di-tert-butyl di-carbonate | 24 g | C(OC(C)(C)C)([O-])=O.C(OC(C)(C)C)([O-])=O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
